// Generated for: spectre
// Generated on: Apr 25 11:19:57 2024
// Design library name: LDO_JSSC2010
// Design cell name: tb_Load_Reg
// Design view name: schematic
simulator lang=spectre
global 0
parameters CC1 CC2 CFF1 IB1 IB2 IB3 IB4 IB5 IB6 IB7 ILOAD=25m RC2 RF1 RF2 RFF1 RFF2 RS1 RS2 RS3
include "/data/PDK/pdk_installed/tsmc180bcd_g2/pdk/pdk_1p6m_2/tsmc18/../models/spectre/c018bcd_gen2_v1d6_usage.scs" section=pre_simu
include "/data/PDK/pdk_installed/tsmc180bcd_g2/pdk/pdk_1p6m_2/tsmc18/../models/spectre/c018bcd_gen2_v1d6_usage.scs" section=tt_lib

// Library name: LDO_JSSC2010
// Cell name: LDO_Core
// View name: schematic
subckt LDO_Core VFB VIN VOUT VREF VSS
    M18 (net10 net15 VIN VIN) pch_mac l=180n w=2u multi=1 nf=1 sigma=1 \
        sd=540n ad=9.6e-13 as=9.6e-13 pd=4.96u ps=4.96u nrd=0.135 \
        nrs=0.135 sa=480n sb=480n sca=0 scb=0 scc=0 mismatchflag=1
    M16 (net19 net19 VIN VIN) pch_mac l=180n w=2u multi=1 nf=1 sigma=1 \
        sd=540n ad=9.6e-13 as=9.6e-13 pd=4.96u ps=4.96u nrd=0.135 \
        nrs=0.135 sa=480n sb=480n sca=0 scb=0 scc=0 mismatchflag=1
    M15 (net15 net19 VIN VIN) pch_mac l=180n w=2u multi=1 nf=1 sigma=1 \
        sd=540n ad=9.6e-13 as=9.6e-13 pd=4.96u ps=4.96u nrd=0.135 \
        nrs=0.135 sa=480n sb=480n sca=0 scb=0 scc=0 mismatchflag=1
    M12 (net23 net17 VIN VDD) pch_mac l=180n w=2u multi=1 nf=1 sigma=1 \
        sd=540n ad=9.6e-13 as=9.6e-13 pd=4.96u ps=4.96u nrd=0.135 \
        nrs=0.135 sa=480n sb=480n sca=0 scb=0 scc=0 mismatchflag=1
    M10 (net17 net14 VIN VDD) pch_mac l=180n w=2u multi=1 nf=1 sigma=1 \
        sd=540n ad=9.6e-13 as=9.6e-13 pd=4.96u ps=4.96u nrd=0.135 \
        nrs=0.135 sa=480n sb=480n sca=0 scb=0 scc=0 mismatchflag=1
    M9 (net14 net14 VIN VDD) pch_mac l=180n w=2u multi=1 nf=1 sigma=1 \
        sd=540n ad=9.6e-13 as=9.6e-13 pd=4.96u ps=4.96u nrd=0.135 \
        nrs=0.135 sa=480n sb=480n sca=0 scb=0 scc=0 mismatchflag=1
    M6 (net30 net28 net41 VDD) pch_mac l=180n w=2u multi=1 nf=1 sigma=1 \
        sd=540n ad=9.6e-13 as=9.6e-13 pd=4.96u ps=4.96u nrd=0.135 \
        nrs=0.135 sa=480n sb=480n sca=0 scb=0 scc=0 mismatchflag=1
    M5 (net28 net28 net26 VDD) pch_mac l=180n w=2u multi=1 nf=1 sigma=1 \
        sd=540n ad=9.6e-13 as=9.6e-13 pd=4.96u ps=4.96u nrd=0.135 \
        nrs=0.135 sa=480n sb=480n sca=0 scb=0 scc=0 mismatchflag=1
    M2 (net41 net33 net29 VDD) pch_mac l=180n w=2u multi=1 nf=1 sigma=1 \
        sd=540n ad=9.6e-13 as=9.6e-13 pd=4.96u ps=4.96u nrd=0.135 \
        nrs=0.135 sa=480n sb=480n sca=0 scb=0 scc=0 mismatchflag=1
    M1 (net26 VREF net29 VDD) pch_mac l=180n w=2u multi=1 nf=1 sigma=1 \
        sd=540n ad=9.6e-13 as=9.6e-13 pd=4.96u ps=4.96u nrd=0.135 \
        nrs=0.135 sa=480n sb=480n sca=0 scb=0 scc=0 mismatchflag=1
    M0 (VOUT net23 VIN VIN) pch_mac l=180n w=2u multi=1 nf=1 sigma=1 \
        sd=540n ad=9.6e-13 as=9.6e-13 pd=4.96u ps=4.96u nrd=0.135 \
        nrs=0.135 sa=480n sb=480n sca=0 scb=0 scc=0 mismatchflag=1
    M14 (net19 net24 net18 VSS) nch_mac l=180n w=2u multi=1 nf=1 sigma=1 \
        sd=540n ad=9.6e-13 as=9.6e-13 pd=4.96u ps=4.96u nrd=0.135 \
        nrs=0.135 sa=480n sb=480n sca=0 scb=0 scc=0 mismatchflag=1
    M13 (net15 VFB net18 VSS) nch_mac l=180n w=2u multi=1 nf=1 sigma=1 \
        sd=540n ad=9.6e-13 as=9.6e-13 pd=4.96u ps=4.96u nrd=0.135 \
        nrs=0.135 sa=480n sb=480n sca=0 scb=0 scc=0 mismatchflag=1
    M8 (net17 net26 net13 VSS) nch_mac l=180n w=2u multi=1 nf=1 sigma=1 \
        sd=540n ad=9.6e-13 as=9.6e-13 pd=4.96u ps=4.96u nrd=0.135 \
        nrs=0.135 sa=480n sb=480n sca=0 scb=0 scc=0 mismatchflag=1
    M7 (net14 net5 net13 VSS) nch_mac l=180n w=2u multi=1 nf=1 sigma=1 \
        sd=540n ad=9.6e-13 as=9.6e-13 pd=4.96u ps=4.96u nrd=0.135 \
        nrs=0.135 sa=480n sb=480n sca=0 scb=0 scc=0 mismatchflag=1
    M4 (net26 net30 VSS VSS) nch_mac l=180n w=2u multi=1 nf=1 sigma=1 \
        sd=540n ad=9.6e-13 as=9.6e-13 pd=4.96u ps=4.96u nrd=0.135 \
        nrs=0.135 sa=480n sb=480n sca=0 scb=0 scc=0 mismatchflag=1
    M3 (net41 net30 VSS VSS) nch_mac l=180n w=2u multi=1 nf=1 sigma=1 \
        sd=540n ad=9.6e-13 as=9.6e-13 pd=4.96u ps=4.96u nrd=0.135 \
        nrs=0.135 sa=480n sb=480n sca=0 scb=0 scc=0 mismatchflag=1
    I6 (net18 VSS) isource dc=IB7 type=dc
    I5 (net10 VSS) isource dc=IB6 type=dc
    I4 (net23 VSS) isource dc=IB5 type=dc
    I3 (net13 VSS) isource dc=IB4 type=dc
    I2 (net30 VSS) isource dc=IB3 type=dc
    I1 (net28 VSS) isource dc=IB2 type=dc
    I0 (VIN net29) isource dc=IB1 type=dc
    C2 (VIN net24) capacitor c=CFF1
    C1 (net45 VSS) capacitor c=CC2
    C0 (net26 net30) capacitor c=CC1
    R7 (VIN net24) resistor r=RFF1
    R6 (net10 net24) resistor r=RFF2
    R5 (net10 net45) resistor r=RC2
    R4 (net10 net5) resistor r=RS1
    R3 (net5 VSS) resistor r=RS3
    R2 (net5 net23) resistor r=RS2
    R1 (net33 VSS) resistor r=RF2
    R0 (VOUT net33) resistor r=RF1
ends LDO_Core
// End of subcircuit definition.

// Library name: LDO_JSSC2010
// Cell name: tb_Load_Reg
// View name: schematic
I0 (VOUT VIN VOUT VREF VSS) LDO_Core
C3 (net4 VSS) capacitor c=4u
R8 (VOUT net4) resistor r=30m
I1 (VOUT VSS) isource dc=ILOAD type=dc
V2 (VIN 0) vsource dc=1.8 type=dc
V1 (VREF 0) vsource dc=1 type=dc
V0 (VSS 0) vsource dc=0 type=dc
simulatorOptions options psfversion="1.1.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
dc dc param=ILOAD start=0 stop=25m oppoint=rawfile maxiters=150 \
    maxsteps=10000 annotate=status
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
